US08466181B2
(4-{4-[5-(4-Fluoro-phenyl)-3-methyl-3H-[1,2,3]triazol-4-yl]-imidazol-1-yl}-phenyl)-(2-oxa-6-aza-spiro[3.3]hept-6-yl)-methanone
As described for example 3b, 4-{4-[5-(4-fluoro-phenyl)-3-methyl-3H-[1,2,3]triazol-4-yl]-imidazol-1-yl}-benzoic acid (75 mg, 0.21 mmol) was converted, using 2-oxa-6-azonia-spiro[3.3]heptane oxalate salt instead of isopropylamine, to the title compound (53 mg, 58%) which was obtained as a white solid after trituration from ethyl acetate. MS: m/e=445.4 [M+H]+.

reactant | 4-{4-[5-(4-fluoro-phenyl)-3-methyl-3H-[1,2,3]triazol-4-yl]-imidazol-1-yl}-benzoic acid | 0.21 mmol, 75 mg | FC1=CC=C(C=C1)C1=C(N(N=N1)C)C=1N=CN(C1)C1=CC=C(C(=O)O)C=C1 | C19H14FN5O2
reactant | 2-oxa-6-azonia-spiro[3.3]heptane oxalate salt | C(C(=O)[O-])(=O)[O-].C1OCC12C[NH2+]C2.C2OCC21C[NH2+]C1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-{4-[5-(4-Fluoro-phenyl)-3-methyl-3H-[1,2,3]triazol-4-yl]-imidazol-1-yl}-phenyl)-(2-oxa-6-aza-spiro[3.3]hept-6-yl)-methanone | 53 mg, 58% | FC1=CC=C(C=C1)C1=C(N(N=N1)C)C=1N=CN(C1)C1=CC=C(C=C1)C(=O)N1CC2(COC2)C1 | C24H21FN6O2
